US06890947B2
In analogy to the procedure described in example 44, rac-3-(1H-indol-5-yl)-2-isopropoxy-propionic acid methyl ester (preparation 8) was reacted with 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole to give rac-2-isopropoxy-3-{1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid as colorless solid.

reactant | rac-3-(1H-indol-5-yl)-2-isopropoxy-propionic acid methyl ester | COC(C(CC=1C=C2C=CNC2=CC1)OC(C)C)=O | C15H19NO3
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
product | rac-2-isopropoxy-3-{1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid | C(C)(C)OC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C26H25F3N2O4
